US05852011
3-[N,N-Bis(2-chloroethyl)amino]benzoic acid
Concentrated hydrochloric acid (40 ml) was added to 2.0 g (7.44 mmol) of methyl 3-[N,N-bis(2-chloroethyl)amino]benzoate, followed by stirring under heating for 3 hours over an oil bath which was controlled at 90° C. The reaction mixture was diluted with water. The resulting crystals were collected by filtration and then washed with 50% ethanol, whereby 1.95 g (7.44 mmol) of the title compound were obtained as white crystals (yield: quantitative).

reactant | hydrochloric acid | 40 ml | Cl | ClH
reactant | methyl 3-[N,N-bis(2-chloroethyl)amino]benzoate | 7.44 mmol, 2.0 g | ClCCN(CCCl)C=1C=C(C(=O)OC)C=CC1 | C12H15Cl2NO2
solvent | water | O | H2O
product | 3-[N,N-Bis(2-chloroethyl)amino]benzoic acid | 7.44 mmol, 1.95 g | ClCCN(CCCl)C=1C=C(C(=O)O)C=CC1 | C11H13Cl2NO2
